US08217028B2
To a solution of oxalyl chloride (0.68 mL) in DCM (10 mL) at 0° C. was dropwise added a solution of DMF (0.60 mL) in DCM (2 mL). The mixture was stirred for 0.5 h at 0° C. and then 5-fluoro-1H-indole-6-carbonitrile (D151) (250 mg) in DCM (3 mL) was added in one portion. The reaction mixture was allowed to warm to rt and stirred overnight. Afterwards, the reaction mixture was added with 2 M aqueous NaOH (30 mL) and extracted with EtOAc (3×50 mL). The combined organic layers were washed with water, dried over anhydrous sodium sulfate, and then concentrated under vacuo to give the designed product 5-fluoro-3-formyl-1H-indole-6-carbonitrile (D152) (280 mg), which was used without purification. MS (ES): C10H5FN2O requires 188.0; found 189.1 (M+H+).

reactant | oxalyl chloride | 0.68 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMF | 0.60 mL | CN(C)C=O | C3H7NO
reactant | 5-fluoro-1H-indole-6-carbonitrile | 250 mg | FC=1C=C2C=CNC2=CC1C#N | C9H5FN2
reactant | NaOH | 2 M, 30 mL | [OH-].[Na+]
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | 5-fluoro-3-formyl-1H-indole-6-carbonitrile | 280 mg | FC=1C=C2C(=CNC2=CC1C#N)C=O | C10H5FN2O
